US04110326
70 g (0.147 mol) of the above-obtained 3β-tosyloxy-5α,6β-dihydroxy-17-oxo-androstane are dissolved in 350 ml. of collidine and the reaction mixture is heated in a nitrogen atmosphere, under stirring for 1.5 hours in an oil bath of 160° C. The collidine is then distilled off under reduced pressure, the evaporation residue is triturated with 400 ml. of water, filtred and washed with 10% aqueous hydrochloric acid solution, then with water to remove the last traces of collidine. The so-obtained product is dried in vacuo over phosphorous pentoxide at 40° C, and may be purified, if desired, by mixing with a fivefold amount of diethyl ether. 45 g of 5α,6β-dihydroxy-17-oxo-androst-2-ene (90%) are obtained; m.p. 183°-186° C; [α]D25 = +81° (c = 1 in chloroform).

reactant | 3β-tosyloxy-5α,6β-dihydroxy-17-oxo-androstane | 0.147 mol, 70 g | S(=O)(=O)(C1=CC=C(C)C=C1)O[C@@H]1C[C@@]2([C@@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O)O | C26H36O6S
reactant | collidine | N1=C(C=C(C=C1C)C)C | C8H11N
product | 5α,6β-dihydroxy-17-oxo-androst-2-ene | 45 g, 90% | O[C@]12[C@@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC=CC1)C)=O)O | C19H28O3
